US04937246
A mixture of 5-nitrovanillin (2.2 g), butyl chloride (10 ml), potassium carbonate (8 g) and N,N-dimethylformamide (50 ml) is stirred at 100° C. for 24 hours. After cooling, water (300 ml) is added to the reaction mixture, followed by extraction with ethyl acetate (200 ml). The extract solution is washed with water, dried, and concentrated under reduced pressure. The residue is purified by means of a silica gel column chromatography (hexane: ethyl acetate=1:1) to afford 4-butoxy-3-methoxy-5-nitrobenzaldehye (2 g) as a pale yellow oily product. This product is dissolved in acetone (100 ml), potassium permanganate (6 g) is added to the mixture, and the mixture is stirred at room temperature overnight. To the reaction mixture are added ethanol (20 ml), water (20 ml) and acetone (200 ml). The whole mixture is left standing for two hours, then insolubles are filtered off. The filtrate is concentrated under reduced pressure. The concentrate is dissolved in water (100 ml) and the mixture is acidified with concentrated hydrochloric acid. Precipitating crystals are collected by filtration to afford 4-butoxy-3-methoxy-5-nitrobenzoic acid (1.6 g) as colorless crystals. This product is recrystallized from a mixture of ethanol and water to give colorless prisms, m.p. 114°-115° C.

reactant | 5-nitrovanillin | 2.2 g | [N+](=O)([O-])C=1C(=C(C=C(C=O)C1)OC)O | C8H7NO5
reactant | butyl chloride | 10 ml | C(CCC)Cl | C4H9Cl
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 4-butoxy-3-methoxy-5-nitrobenzaldehye | 2 g | C(CCC)OC1=C(C=C(C=O)C=C1[N+](=O)[O-])OC | C12H15NO5
